.subckt INVx2 A Y VDD VSS
mn1 Y A VSS VSS nmos_lvt l=16n nfin=4
mp1 Y A VDD VDD pmos_lvt l=16n nfin=4
Cext_Y Y 0 0.060f
Cext_A A 0 0.035f
.ends INVx2
