.subckt INVx4 A Y VDD VSS
mn1 Y A VSS VSS nmos_lvt l=16n nfin=8
mp1 Y A VDD VDD pmos_lvt l=16n nfin=8
Cext_Y Y 0 0.080f
Cext_A A 0 0.045f
.ends INVx4
